data/polar.json
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:5]([cH:14][cH:12][cH:29][cH:7]1)-[c:6]1[c:2]([cH:8][cH:30][cH:13][cH:15]1)[N+:24]2=[CH:4][CH3:19].[cH:3]1[cH:27][cH:16][c:18]([C-:11]([C:22]([O:9][CH2:20][CH3:25])=[O:32])[C:23]([O:10][CH2:21][CH3:26])=[O:31])[cH:17][cH:28]1>>[c:1]12[c:5]([c:6]3[c:2]([cH:8][cH:30][cH:13][cH:15]3)[n:24]1[CH:4]([C:11]([c:18]1[cH:16][cH:27][cH:3][cH:28][cH:17]1)([C:22]([O:9][CH2:20][CH3:25])=[O:32])[C:23]([O:10][CH2:21][CH3:26])=[O:31])[CH3:19])[cH:14][cH:12][cH:29][cH:7]2", "epd": [["LP-/Sigma+", [11], [11, 4]], ["Pi-/LP+", [4, 24], [24]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:5](=[O:2])([N:12]=[C:10]=[O:15])[c:22]1[cH:8][cH:3][c:21]([CH3:23])[cH:4][cH:9]1.[cH:6]1[c:17]2[cH:16][cH:24][c:19]([S-:11])[cH:14][c:20]2[cH:13][cH:7][cH:18]1>>[O:1]=[S:5](=[O:2])([N-:12][C:10]([S:11][c:19]1[cH:14][c:20]2[cH:13][cH:7][cH:18][cH:6][c:17]2[cH:16][cH:24]1)=[O:15])[c:22]1[cH:8][cH:3][c:21]([CH3:23])[cH:4][cH:9]1", "epd": [["LP-/Sigma+", [11], [11, 10]], ["Pi-/LP+", [10, 12], [12]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[c:1]1([N+:7](=[O:22])[O-:29])[s:8][cH:2][c:10]([N+:6](=[O:15])[O-:18])[cH:21]1.[cH:3]1[cH:11][c:25]([CH:5]=[C:30]2[CH:26]=[CH:16][C:23](=[N+:24]([O-:19])[O-:20])[CH:17]=[CH:27]2)[cH:12][cH:4][c:13]1[N+:28](=[O:9])[O-:14]>>[C:1]1([N+:7](=[O:22])[O-:29])=[CH:21][C:10](=[N+:6]([O-:15])[O-:18])[CH:2]([CH:5]([c:25]2[cH:11][cH:3][c:13]([N+:28](=[O:9])[O-:14])[cH:4][cH:12]2)[c:30]2[cH:26][cH:16][c:23]([N+:24](=[O:19])[O-:20])[cH:17][cH:27]2)[S:8]1", "epd": [["LP-/Pi+", [19], [24, 19]], ["Pi-/Pi+", [23, 24], [16, 23]], ["Pi-/Pi+", [26, 16], [30, 26]], ["Pi-/Sigma+", [5, 30], [5, 2]], ["Pi-/Pi+", [2, 10], [10, 6]], ["Pi-/LP+", [6, 15], [15]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:3](=[O:16])([O:23][CH2:5][c:14]1[cH:18][cH:7][cH:11][cH:10][cH:21]1)[N:28]=[N:27][C:4](=[O:17])[O:24][CH2:6][c:15]1[cH:19][cH:8][cH:12][cH:9][cH:20]1.[CH3:1][C:13]([CH3:2])=[N+:22]([O-:25])[O-:26]>>[CH3:1][C:13]([CH3:2])([N+:22](=[O:25])[O-:26])[N:27]([C:4](=[O:17])[O:24][CH2:6][c:15]1[cH:19][cH:8][cH:12][cH:9][cH:20]1)[N:28]=[C:3]([O-:16])[O:23][CH2:5][c:14]1[cH:18][cH:7][cH:11][cH:10][cH:21]1", "epd": [["LP-/Pi+", [25], [22, 25]], ["Pi-/Sigma+", [13, 22], [13, 27]], ["Pi-/Pi+", [27, 28], [28, 3]], ["Pi-/LP+", [3, 16], [16]]]}
{"reaction_name": "Anionic nucleophile capture of a preformed localized carbocation", "rsmi": "[O-:1][N+:22]([O-:2])=[C:10]1[CH:9]=[CH:27][CH:8]=[CH:11][C:23]1=[O:7].[cH:3]1[c:12]([CH+:26][c:13]2[cH:4][c:16]([F:20])[cH:25][c:17]([F:21])[cH:5]2)[cH:6][c:14]([F:18])[cH:24][c:15]1[F:19]>>[O:1]=[N+:22]([O-:2])[c:10]1[cH:9][cH:27][cH:8][cH:11][c:23]1[O:7][CH:26]([c:12]1[cH:3][c:15]([F:19])[cH:24][c:14]([F:18])[cH:6]1)[c:13]1[cH:4][c:16]([F:20])[cH:25][c:17]([F:21])[cH:5]1", "epd": [["LP-/Pi+", [1], [22, 1]], ["Pi-/Pi+", [10, 22], [23, 10]], ["Pi-/Sigma+", [7, 23], [7, 26]]]}
{"reaction_name": "Elbs persulfate oxidation", "rsmi": "[O:2]([H:10])[H:11].[O-:12][S:13](=[O:14])(=[O:15])[O:16][O:17][S:18](=[O:19])(=[O:20])[O-:21].[OH:1][c:8]1[cH:6][cH:3][c:5]([H:9])[cH:4][cH:7]1>>[OH:1][c:8]1[cH:6][cH:3][c:5]([O:2][H:9])[cH:4][cH:7]1.[O-:12][S:13](=[O:14])(=[O:15])[O:16][H:10].[O:17]([H:11])[S:18](=[O:19])(=[O:20])[O-:21]", "epd": [["Sigma-/Sigma+", [2, 10], [2, 9]], ["Sigma-/Sigma+", [5, 9], [2, 5]], ["Sigma-/Sigma+", [2, 11], [11, 17]], ["Sigma-/Sigma+", [16, 17], [10, 16]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:9]1[N+:15](=[CH:5][CH:33]=[CH:10][c:25]2[cH:6][cH:18][cH:4][cH:19][cH:7]2)[CH:14]([CH2:34][c:31]2[cH:36][cH:12][cH:20][cH:13][cH:37]2)[C:24](=[O:8])[N:32]1[CH3:23])([CH3:26])([CH3:27])[CH3:28].[CH3:1][C:11](=[C:3]=[N-:16])[c:17]1[cH:21][cH:29][cH:35][cH:30][cH:22]1>>[CH3:1][C:11]([C:3]#[N:16])([CH:10]([c:25]1[cH:6][cH:18][cH:4][cH:19][cH:7]1)[CH:33]=[CH:5][N:15]1[CH:9]([C:2]([CH3:26])([CH3:27])[CH3:28])[N:32]([CH3:23])[C:24](=[O:8])[CH:14]1[CH2:34][c:31]1[cH:36][cH:12][cH:20][cH:13][cH:37]1)[c:17]1[cH:21][cH:29][cH:35][cH:30][cH:22]1", "epd": [["LP-/Pi+", [16], [3, 16]], ["Pi-/Sigma+", [11, 3], [11, 10]], ["Pi-/Pi+", [10, 33], [33, 5]], ["Pi-/LP+", [5, 15], [15]]]}
{"reaction_name": "Nucleophilic addition to terminal diazo nitrogen", "rsmi": "[CH3:1][C:8](=[C:3]=[N-:10])[c:11]1[cH:14][cH:18][cH:21][cH:19][cH:15]1.[N+:2]([C-:9]([C:4]([O:12][CH3:6])=[O:16])[C:5]([O:13][CH3:7])=[O:17])#[N:20]>>[CH3:1][C:8]([C:3]#[N:10])([c:11]1[cH:14][cH:18][cH:21][cH:19][cH:15]1)[N:20]=[N:2][C-:9]([C:4]([O:12][CH3:6])=[O:16])[C:5]([O:13][CH3:7])=[O:17]", "epd": [["LP-/Pi+", [10], [3, 10]], ["Pi-/Sigma+", [8, 3], [8, 20]], ["Pi-/LP+", [20, 2], [2]]]}
